US07456218B2
[4-(2-ethoxyethoxy)-2,6-dimethylphenyl]boronic acid
To a solution of 2-bromo-5-(2-ethoxyethoxy)-1,3-dimethylbenzene (10.0 g, 36.6 mmol) in tetrahydrofuran (100 mL) was added n-butyllithium hexane solution (1.6 M, 25.1 mL, 40.2 mmol) at −78° C. with stirring. The reaction mixture was stirred at the same temperature for 30 min. and triisopropyl borate (10.5 mL, 45.5 mmol) was added. The reaction mixture was warmed to room temperature and stirred for 3 hrs. 5 N Hydrochloric acid (20 mL) was added to the reaction mixture and the mixture was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was washed with hexane/diethyl ether and dried to give the title compound (5.9 g, yield 68%) as pale-yellow crystals.

reactant | 2-bromo-5-(2-ethoxyethoxy)-1,3-dimethylbenzene | 36.6 mmol, 10.0 g | BrC1=C(C=C(C=C1C)OCCOCC)C | C12H17BrO2
reactant | n-butyllithium hexane | 40.2 mmol, 1.6 M, 25.1 mL | CCCCCC.C(CCC)[Li]
reactant | triisopropyl borate | 45.5 mmol, 10.5 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 5 N, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [4-(2-ethoxyethoxy)-2,6-dimethylphenyl]boronic acid | 5.9 g, yield 68% | C(C)OCCOC1=CC(=C(C(=C1)C)B(O)O)C | C12H19BO4
